USRE037664E1
13.9 g of N-(4-chloro-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide, 8.2 9 of 3-chloromethyl-5,6-dihydro-2H-thiopyran and 8.3 g of potassium carbonate in 150 ml of acetonitrile are refluxed for hours. The mixture is cooled and filtered, the filtrate is evaporated down, the residue is taken up in 200 ml of methylene chloride and the solution is washed twice with 10% strength sodium hydroxide solution and 3 times with water dried and evaporated out. 15.0 g of N-[4-chloro-3-(3-methoxy-5,6-dihydro-2H-thiopyranyl)-phenyl]-3,4,5,6-tetrahydrophthalimide (mp. 116-119° C.) are obtained.

reactant | N-(4-chloro-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide | 13.9 g | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)O | C14H12ClNO3
reactant | 3-chloromethyl-5,6-dihydro-2H-thiopyran | ClCC=1CSCCC1 | C6H9ClS
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-[4-chloro-3-(3-methoxy-5,6-dihydro-2H-thiopyranyl)-phenyl]-3,4,5,6-tetrahydrophthalimide | 15.0 g | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)C2SCCC=C2OC | C20H20ClNO3S
